US07338973B2
8-methoxy-11-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene 5,5-dioxide
8-methoxy-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene (257 mg, 0.915 mmoL) in MeOH (3 mL) and water (3 mL) was treated with OXONE (2.744 mmoL, 1.68 g) at room temperature. The reaction mixture was stirred for 6 hours. The solvent was removed and the residue was partitioned between EtOAc and saturated NaHCO3. The aqueous phase was extracted two times with EtOAc. The organic layer from each extraction was combined, washed with water, brine, dried over anhydrous Na2SO4, filtered and concentrated to yield a brown solid. The crude material (the oil) was then purified by column chromatography (silica gel, 1:1 hexanes:EtOAc as eluent) to yield the title compound as a white solid.

reactant | 8-methoxy-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene | 257 mg | COC=1C=C2C=3CSC4=C(C3NC2=CC1)C=CC=C4 | C16H13NOS
reactant | OXONE | 1.68 g | OOS(=O)[O-].[K+]
reactant | MeOH | 3 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 8-methoxy-11-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluorene 5,5-dioxide | COC=1C=C2C=3CS(C4=C(C3N(C2=CC1)C)C=CC=C4)(=O)=O | C17H15NO3S
